US07223788B2
tert-Butyl (1-{5-[(4-cyclohexylbenzoyl)-(3-methylbut-2-enyl)amino]pyridin-2-yl}pyrrolidin-3-yl)methylcarbamate
tert-Butyl {1-[5-(4-cyclohexylbenzoylamino)pyridin-2-yl]pyrrolidin-3-yl}methylcarbamate was reacted with 3-methyl-2-butenyl bromide by method F-a. This resulted in the product with the molecular weight of 546.76 (C33H46N4O3); MS (ESI): 547 (M+H+).

reactant | tert-Butyl {1-[5-(4-cyclohexylbenzoylamino)pyridin-2-yl]pyrrolidin-3-yl}methylcarbamate | C1(CCCCC1)C1=CC=C(C(=O)NC=2C=CC(=NC2)N2CC(CC2)CNC(OC(C)(C)C)=O)C=C1 | C28H38N4O3
reactant | 3-methyl-2-butenyl bromide | CC(=CCBr)C | C5H9Br
product | tert-Butyl (1-{5-[(4-cyclohexylbenzoyl)-(3-methylbut-2-enyl)amino]pyridin-2-yl}pyrrolidin-3-yl)methylcarbamate | C1(CCCCC1)C1=CC=C(C(=O)N(C=2C=CC(=NC2)N2CC(CC2)CNC(OC(C)(C)C)=O)CC=C(C)C)C=C1 | C33H46N4O3
